US08703805B2
The 4-Bromo-2-methanesulfonyl-benzoic acid ethyl ester (16.3 g, 53 mmol) was weighed into a flask with 21 g of bis(pinacolato)diboron, 19 g of potassium acetate, 5 g of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct, and 150 mL of DMSO. The resulting suspension was heated at 80-85° C. for 20 h then was diluted with 200 mL of water, 200 mL of ethyl acetate, and the reaction mixture was filtered through celite to remove solids. The filtrate was transferred to a separatory funnel and the aqueous phase was separated and washed with ethyl acetate. The ethyl acetate washings were combined, washed with brine, were dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel flash chromatography (Biotage, 65×200 mm SiO2, gradient elution from 100% hexanes to 40% ethyl acetate over 1 h). Appropriate fractions were combined and concentrated in vacuo affording the 2-Methanesulfonyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid ethyl ester as a colorless solid, yield: 12.65 g (67%). 1H-NMR (400 MHz, CDCl3): δ 8.52 (s, 1H), 8.08 (d, J=8 Hz, 1H), 7.65 (d, J=8 Hz, 1H), 4.45 (q, J=7 Hz, 2H), 3.33 (s, 3H), 1.42 (t, J=7 Hz, 3H), 1.35 (s, 2H).

reactant | 4-Bromo-2-methanesulfonyl-benzoic acid ethyl ester | 53 mmol, 16.3 g | C(C)OC(C1=C(C=C(C=C1)Br)S(=O)(=O)C)=O | C10H11BrO4S
reactant | bis(pinacolato)diboron | 21 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 19 g | C(C)(=O)[O-].[K+]
reactant | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Methanesulfonyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C)=O | C16H23BO6S
